US06653471B2
To a cooled (5° C.) solution of 15.7 g (0.031 mol) of (3-benzyloxycarbonylamino-6-methoxy-pyridin-2-yl)-(toluene-4-sulfonyl)-acetic acid ethyl ester dissolved in 160 mL of THF is added, dropwise, 31 mL of a 1N solution of potassium-t-butoxide dissolved in THF. The reaction mixture is warmed to room temperature and stirred for 2 hours. The reaction is quenched with 5 mL of water and evaporated. The residue is dissolved in 200 mL of ethyl acetate and 200 mL of water. The ethyl acetate layers are dried (Na2SO4) and evaporated. The residue is chromatographed on 375 grams of silica gel using 7/3 hexanes/ethyl acetate as the eluant. Appropriate fractions are combined and evaporated to yield 5.57 grams of 3-[3-benzyloxycarbonylamino-6-methoxy-pyridin-2-yl]-acrylic acid ethyl ester. 1H NMR (CDCl3) δ7.8 (m, 2H), 7.4 (m, 2H), 7.0 (m, 1H), 6.8 (m, 1H), 6.7 (m, 1H), 5.2 (s, 2H), 4.2 (q, 2H) 3.9 (s, 3H), 1.3 (t, 3H). Mass spectrum: m/e=357 (p+1).

reactant | (3-benzyloxycarbonylamino-6-methoxy-pyridin-2-yl)-(toluene-4-sulfonyl)-acetic acid ethyl ester | 0.031 mol, 15.7 g | C(C)OC(C(S(=O)(=O)C1=CC=C(C=C1)C)C1=NC(=CC=C1NC(=O)OCC1=CC=CC=C1)OC)=O | C25H26N2O7S
reactant | potassium-t-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 160 mL | C1CCOC1 | C4H8O
product | 3-[3-benzyloxycarbonylamino-6-methoxy-pyridin-2-yl]-acrylic acid ethyl ester | 5.57 grams | C(C)OC(C=CC1=NC(=CC=C1NC(=O)OCC1=CC=CC=C1)OC)=O | C19H20N2O5
